US05589489
(3R)-3-[(1S)-1-(3,4-Dichlorophenyl)-3-(4-(2methylsulfinylphenyl)piperidino)propyl]-2-ethyl-2,3-dihydro-isoindol-1-one hydrochloride.
(3S)-3-(3,4-Dichlorophenyl)-3-[(1R)-2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl]propionaldehyde (0.4 g) was coupled to 4-(2-methylsulfinylphenyl)piperidine (0.36 g) using a method similar to that described in Example 1, to afford the title compound (0.25 g); mp 120°-125° C.

reactant | (3S)-3-(3,4-Dichlorophenyl)-3-[(1R)-2-ethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl]propionaldehyde | 0.4 g | ClC=1C=C(C=CC1Cl)[C@H](CC=O)[C@H]1N(C(C2=CC=CC=C12)=O)CC | C19H17Cl2NO2
reactant | 4-(2-methylsulfinylphenyl)piperidine | 0.36 g | CS(=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NOS
product | (3R)-3-[(1S)-1-(3,4-Dichlorophenyl)-3-(4-(2methylsulfinylphenyl)piperidino)propyl]-2-ethyl-2,3-dihydro-isoindol-1-one hydrochloride | 0.25 g | Cl.ClC=1C=C(C=CC1Cl)[C@H](CCN1CCC(CC1)C1=C(C=CC=C1)S(=O)C)[C@H]1N(C(C2=CC=CC=C12)=O)CC | InChI=1S/C31H34Cl2N2O2S.ClH/c1-3-35-30(25-9-4-5-10-26(25)31(35)36)24(22-12-13-27(32)28(33)20-22)16-19-34-17-14-21(15-18-34)23-8-6-7-11-29(23)38(2)37;/h4-13,20-21,24,30H,3,14-19H2,1-2H3;1H/t24-,30+,38?;/m0./s1
